US05324648
Preparation of 7-Heptafluorobutyroylamino-4-Chloro-3-Methoxyisocoumarin
7-(3-fluorobenzoyl)amino-4-chloro-3-propoxyisocoumarin, 7-(4-methoxybenzoyl)amino-4-chloro-3-propoxyisocoumarin, 7-heptafluorobutyroylamino-4-chloro-3-ethoxyisocoumarin, 7-heptafluorobutyroylamino-4-chloro-3-(2-bromoethoxy)isocoumarin, 7-(3-fluorobenzoyl)amino-4-chloro-3-(2-bromoethoxy)isocoumarin, 7-(3-nitrobenzoyl)amino-4-chloro-3-(2-bromoethoxy)isocoumarin, 7-(α-toluenesulfonyl)amino-4-chloro-3-(2-bromoethoxy)isocoumarin can be prepared by the same procedure.

reactant | 7-(3-fluorobenzoyl)amino-4-chloro-3-propoxyisocoumarin | FC=1C=C(C(=O)NC2=CC=C3C(=C(OC(=O)C3=C2)OCCC)Cl)C=CC1 | C19H15ClFNO4
reactant | 7-(4-methoxybenzoyl)amino-4-chloro-3-propoxyisocoumarin | COC1=CC=C(C(=O)NC2=CC=C3C(=C(OC(=O)C3=C2)OCCC)Cl)C=C1 | C20H18ClNO5
reactant | 7-heptafluorobutyroylamino-4-chloro-3-ethoxyisocoumarin | FC(C(C(=O)NC1=CC=C2C(=C(OC(=O)C2=C1)OCC)Cl)(F)F)(C(F)(F)F)F | C15H9ClF7NO4
reactant | 7-heptafluorobutyroylamino-4-chloro-3-(2-bromoethoxy)isocoumarin | FC(C(C(=O)NC1=CC=C2C(=C(OC(=O)C2=C1)OCCBr)Cl)(F)F)(C(F)(F)F)F | C15H8BrClF7NO4
reactant | 7-(3-fluorobenzoyl)amino-4-chloro-3-(2-bromoethoxy)isocoumarin | FC=1C=C(C(=O)NC2=CC=C3C(=C(OC(=O)C3=C2)OCCBr)Cl)C=CC1 | C18H12BrClFNO4
reactant | 7-(3-nitrobenzoyl)amino-4-chloro-3-(2-bromoethoxy)isocoumarin | [N+](=O)([O-])C=1C=C(C(=O)NC2=CC=C3C(=C(OC(=O)C3=C2)OCCBr)Cl)C=CC1 | C18H12BrClN2O6
reactant | 7-(α-toluenesulfonyl)amino-4-chloro-3-(2-bromoethoxy)isocoumarin | C1(=CC=CC=C1)CS(=O)(=O)NC1=CC=C2C(=C(OC(=O)C2=C1)OCCBr)Cl | C18H15BrClNO5S
product | 7-Heptafluorobutyroylamino-4-Chloro-3-Methoxyisocoumarin | FC(C(C(=O)NC1=CC=C2C(=C(OC(=O)C2=C1)OC)Cl)(F)F)(C(F)(F)F)F | C14H7ClF7NO4
